US08309725B2
2.1 Preparation of (4aRS,5SR,8aRS)-1-benzyl-5-(3-hydroxypyrrolidin-1-yl)perhydroquinoxaline-2,3-dione
(4aRS,5SR,8aRS)-5-Amino-1-benzylperhydroquinoxaline-2,3-dione (144 mg, 0.53 mmol) was dissolved in acetonitrile (16 ml), and NaHCO3 (300 mg, 3.57 mmol) and racemic 1,4-dibromobutan-2-ol (purity 85%, 1.15 g, 4.20 mmol, 0.57 ml) were added. After 24 hours, NaHCO3 was separated off and the mixture was evaporated in vacuo. The solid was taken up in CH2Cl2 and the mixture was extracted by shaking three times with HCl (1 N). The aqueous phase was then brought to pH 8 with NaOH (2 N) and extracted by shaking three times with CH2Cl2. The organic phases were dried over Na2SO4 and evaporated in vacuo. The crude product was purified by flash chromatography over silica gel 60 (40-63 μm, (Merck) Ø 2 cm, acetone/MeOH/Et2NH 9.5:0.5:0.1, l=17 cm, V=5 ml). A pale yellow solid was isolated.

reactant | (4aRS,5SR,8aRS)-5-Amino-1-benzylperhydroquinoxaline-2,3-dione | 0.53 mmol, 144 mg | NC1C2NC(C(N(C2CCC1)CC1=CC=CC=C1)=O)=O | C15H19N3O2
reactant | NaHCO3 | 3.57 mmol, 300 mg | C(=O)(O)[O-].[Na+]
reactant | racemic 1,4-dibromobutan-2-ol | 4.20 mmol, 0.57 ml, 1.15 g | BrCC(CCBr)O | C4H8Br2O
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
product | (4aRS,5SR,8aRS)-1-benzyl-5-(3-hydroxypyrrolidin-1-yl)perhydroquinoxaline-2,3-dione | C(C1=CC=CC=C1)N1C(C(NC2C(CCCC12)N1CC(CC1)O)=O)=O | C19H25N3O3
